US07737166B2
2-Cyclopropyl-5-methyl-7-(3-oxocyclopentyl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-303)
2-Cyclopropyl-7-[(1S*,3R*)-3-hydroxycyclopentyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-302) (50 mg, 0.14 mmol) was dissolved in dichloromethane (1 ml), and at 0° C., Dess-Martin reagent (118 mg, 0.28 mmol) was added. The solution was stirred at room temperature for 3 hours, then again cooled at 0° C., and aqueous saturated sodium thiosulfate solution and an aqueous saturated sodium hydrogencarbonate solution were added, followed by further stirring for 10 minutes. The solution was extracted three times with dichloromethane. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=3:1, v/v) to obtain the entitled compound (44 mg, 89%) as a white solid.

reactant | 2-Cyclopropyl-7-[(1S*,3R*)-3-hydroxycyclopentyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.14 mmol, 50 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2[C@@H]2C[C@@H](CC2)O)C2=CC=CC=C2)C)C#N | C23H22N2O2
reactant | Dess-Martin reagent | 0.28 mmol, 118 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-Cyclopropyl-5-methyl-7-(3-oxocyclopentyl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 44 mg, 89% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2C2CC(CC2)=O)C2=CC=CC=C2)C)C#N | C23H20N2O2
